Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My stomach started hurting this morning"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Resident Accept note written by Dr. ___ on 
___:

Ms. ___ is an ___ year old woman with no formal 
psychiatric history who was BIBA after witnessed near-syncopal 
event on ___, subsequently endorsed depression, 
anxiety, and recent overdose on Ibuprofen. 
.
Per Dr. ___ Evaluation on ___:
"Per EMS, patient reportedly nearly passed out while walking in 
the lobby at a dorm. Patient was caught and lowered to the 
floor. Upon coming to, she reported that she ingested "a bottle 
of Advil" approximately ___ days ago in an attempt to harm 
herself secondary to stress, anxiety, and depression. She was 
noted to be hypotensive on EMS initial evaluation.
.
Patient reports that this morning around 11AM, she was sitting 
in her bed and her stomach started hurting and continued to get 
worse through the morning and early afternoon. She went 
downstairs to speak with dorm room staff and asked them to call 
an ambulance when she started sweating a lot, feeling dizzy, and
was in a lot of pain. She says she got really lightheaded and 
felt like she was going to pass out. She says she has never felt 
this way before. She is unsure what could have caused this, but 
guesses it is related to  taking "a lot of" advil ___ or 
___. She reports taking the whole bottle, estimating at 
least 24 pills. She says she wasn't sure what this would do and
felt apathetic about it. She does say she was having suicidal 
thoughts before swallowing the pills. Denies suicidal ideation 
at present.  
.
She says she has moved into her single dorm room at ___ 
on ___. She says since arriving on campus, it has been hard 
to connect with people, feels like she has not been getting 
along with people. In this setting, she days she felt 
increasingly sad and anxious and developed suicidal thoughts. 
.
She has never been formally diagnosed, been she thinks she has 
been feeling depressed since she was in the ___ grade. She notes 
that around that time, when she was ___ years old, she was 
sexually assaulted. She does not want to discuss further about 
this assault, but says she subsequently had nightmares and 
flashbacks. She says depression progressively worsened in middle 
school (when she engaged in cutting behaviors) and in high 
school. High school was particularly challenging; she says her 
group of high school friends turned on her and began bullying 
her.
.
She reports that she has never seen a psychiatrist, but saw a 
therapist twice (most recently was months ago per her report). 
She says he therapist has wondered if she has autism spectrum 
disorder given her longstanding difficulty with "sensory 
overload" and social cues, trouble making eye contact, and 
inability to understand sarcasm. "
.
On interview today, patient states that her mood has worsened 
since moving into her dorm room at ___ last ___, 
given that she has been feeling very lonely, hopeless, and 
isolated during her Welcome Week social activities. Patient 
endorsed depressed mood, ruminative thoughts about loneliness 
and difficulty connecting with other students along with 
thoughts of self loathing/hatred. Patient feels that she has 
been unable to make friends because of "how awkward [she] is". 
Her therapist believed that patient might have autism spectrum 
disorder, which patient feels is a potential diagnosis that 
resonates with her very well more than "social anxiety" alone 
given the nature of her difficulties with socializing and 
connecting with people. Patient stated that she has been 
watching documentaries about how "it feels like when you have 
autism, others are talking to you in a different language". She 
expressed having difficulty coping with living alone and having 
to meet new people and additionally expressed some paranoid 
thoughts about others always judging/being hypercritical of her 
in social settings.  
.
Patient mentioned that she has occasional flashbacks and 
nightmares regarding the history of sexual abuse/molestation 
that occurred by a family member when the patient was ___ years 
old. She feels that her depressive symptoms began when she was 
in the ___ grade but was vague, and that she tried to cut 
herself in the ___ grade and engaged in another suicide attempt 
by swallowing advil one year prior (was nonspecific and vague 
regarding chronology of events).  She feels some anger and 
resentment towards her prior teachers, family members, doctors, 
etc. because they never noticed that she was not just a quiet 
child but a someone who was struggling with socializing. She 
feels that the "system has failed me" given that it has taken 
this long for her to get help even though the signs for needing 
help have been present. 
.
Ms. ___ currently denies any suicidal ideation, intent, or 
plan with no desire to harm herself. Patient stated that she 
swallowed the bottle of Advil (approximately 25 pills remaining) 
not necessarily as a suicide attempt but rather as a way to "do 
damage" to herself given that she has swallowed advil before and 
"nothing happened then". She appeared to be guarded and 
minimized the incident, stating that it was not necessarily a 
suicide attempt. She stated that she told her sister about how 
she was struggling and wanted to take a year off but feels that 
her family does not understand her. While in high school, 
patient noted being bullied by one girl in particular who would 
single the patient out as someone who was different and quiet 
from others, and that every time she would go to her family for 
support they would only tell her to "ignore those people" which 
she felt was not helpful. Ms. ___ would intentionally try to 
force herself to be in situations where she would have to talk 
and socialize more (engaged in debate team, participated 
constantly in class) but felt defeated and frustrated that she 
was still unable to communicate with and connect with other 
students. She additionally expressed that her sister has placed 
great pressure on her to do well in school, and while she feels 
close to her sister, it has been overwhelming for the patient,
who was valedictorian of her high school and is currently on 
full scholarship to ___ for Biomedical Engineering.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: patient denies any formal diagnoses, but she 
reports therapist has speculated about anxiety and autism 
features- sensory overload, can't read social cues, can't make
eye contact, don't understand sarcasm 
-Hospitalizations: denies 
-Psychiatrist: denies 
-Therapist: ___, ___, met with her twice
hasn't seen her in months 
-Medication trials: denies 
-Suicide attempts: tried to OD on advil about a year ago- took a 
small amount 6 tabs. States that this was also an attempt to 
harm herself rather than trying to end her life. 
-Self-injurious behavior: cutting behavior in middle school
-Trauma: ___ years old, sexual abuse 
-Access to weapons: denies access to guns. 
.
PAST MEDICAL HISTORY:
-Denies any chronic medical problems.
-Denies history of head trauma, seizure.
 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: Not every day 
-Tobacco: Denies 
-Alcohol: Denies 
-Marijuana: Denies 
-Other Drugs: Denies
.
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses:  denies 
-Substance Use Disorders: denies 
-Suicide Attempts/Completed Suicides: denies 
 
Physical Exam:
On admission:
EXAM:  
Vital Signs: T 98.7   BP 106 / 72   HR 91   RR  16    O1 sat 99 
.
General: Awake, alert, in no acute distress, dressed in hospital 
attire. 
  HEENT: Normocephalic, atraumatic. PERRLA, EOMI. Oropharynx 
clear.
  Neck: Supple.
  Back: No significant deformity.
  Lungs: CTA ___. No crackles, wheezes, or rhonchi.
  CV: RRR, no murmurs/rubs/gallops. 
  Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses or organomegaly.
  Extremities: No clubbing, cyanosis, or edema.
  Skin: No rashes, abrasions, scars, or lesions. 
.
Neurological:  
-Station and gait: Did not assess 
-Tone and strength: Intact, spontaneously moves all extremities; 
___ in upper and lower extremities to confrontational testing. 
-Cranial nerves: CN II-XII intact
-Abnormal movements: No tremor or abnormal posturing
-Frontal release: Not assessed
.
Mental Status:
-Appearance: Young ___ woman appearing her stated 
age, well groomed, wearing hospital gown, in no apparent 
distress. 
-Behavior: Sitting up in chair, making intermittent eye contact, 
occasionally looking forward. 
-Attitude: Cooperative, engaged, friendly. Appeared shy, looking 
forward frequently. At times inappropriately smiling (unclear 
whether patient was feeling anxious at those times). 
-Mood: "good"
-Affect: Initially flat and constricted, though patients affect 
was more euthymic and reactive during middle and end of 
interview when speaking about things patient enjoys doing for 
fun (watching TV shows for example) 
-Speech: Normal rate, volume, and tone
-Thought process: Mostly linear, coherent, goal-oriented; 
occasionally circumstantial 
-Thought Content:
---Safety: Denies SI/HI at present 
---Delusions: Mildly paranoid regarding feeling that others are 
judging her (especially in social situations)
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Poor
.
Cognition
-Wakefulness/alertness: Awake and alert
-Attention: Days of week backwards and spelled 'WORLD" backwards 
with long response latency 
-Orientation: Oriented to person, place, situation, date, 
holiday
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 2 
presidents; and pop culture current events
-Calculations: $1.75 = "7" quarters
-Abstraction: Accurately described the "grass is always greener 
on the other side" 
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
 
Pertinent Results:
___ 04:24PM BLOOD WBC-8.7 RBC-3.89* Hgb-11.8 Hct-36.1 
MCV-93 MCH-30.3 MCHC-32.7 RDW-12.6 RDWSD-42.3 Plt ___
___ 04:24PM BLOOD Neuts-65.6 ___ Monos-5.6 Eos-3.2 
Baso-0.7 Im ___ AbsNeut-5.71 AbsLymp-2.15 AbsMono-0.49 
AbsEos-0.28 AbsBaso-0.06
___ 04:24PM BLOOD Glucose-88 UreaN-11 Creat-0.6 Na-142 
K-3.8 Cl-106 HCO3-23 AnGap-13
___ 03:19PM BLOOD Glucose-95 UreaN-11 Creat-0.6 Na-140 
K-4.6 Cl-104 HCO3-25 AnGap-11
___ 03:19PM BLOOD ALT-14 AST-15 AlkPhos-51 TotBili-0.5
___ 03:19PM BLOOD Calcium-9.9 Phos-3.9 Mg-1.9 Cholest-155
___ 03:19PM BLOOD %HbA1c-5.3 eAG-105
___ 03:19PM BLOOD Triglyc-110 HDL-45 CHOL/HD-3.4 LDLcalc-88
___ 03:19PM BLOOD TSH-1.0
___ 03:19PM BLOOD HCG-<5
___ 04:24PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:50PM URINE UCG-NEGATIVE
___ 06:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Unspecified Depressive disorder 
Ms. ___ is an ___ year old woman with no formal 
psychiatric history who was BIBA after witnessed near-syncopal 
event on ___ campus, subsequently endorsed depression, 
anxiety, and recent overdose on Ibuprofen. 
.
On admission interview, Ms. ___ endorsed isolative symptoms 
with suicidal thoughts, with recent (4 days prior) attempt to 
overdose on ibuprofen. Patient endorsed that depressive symptoms 
have been longstanding since childhood, and that her symptoms 
seemed to have started after hx of sexual assault when patient 
was ___ years old. Patient states that she has had longstanding 
social difficulties and does identify with the diagnosis of 
autism spectrum disorder, which was a diagnosis suggested by her 
therapist. On mental status exam patient maintains poor eye 
contact, appeared to have a reactive affect though initially 
flat and restrictive.
She appears to be minimizing her symptoms, though she did note 
that she is frustrated at herself for "always waiting until it 
gets really bad" to get help, which suggests that patient does 
have limited insight into her psychiatric condition. 
.
Diagnostically, Ms. ___ presentation is concerning for an 
unspecified depressive disorder with anxious features in the 
context of likely autism spectrum disorder. It is also possible, 
that given patient's trauma history, that her presentation could 
be best understood as part of a PTSD diagnosis. Throughout 
admission, patient demonstrated remarkable difficulty with 
verbalizing her emotional experience, and often seemed unaware 
of appropriate social cues. Regardless of final diagnosis, for 
the patient's depressive and anxious symptoms, she was started 
on Sertraline 25 mg PO daily. The patient tolerated the 
medication well without any reported side effects. The patient 
was also provided with individual and group therapies focused on 
coping skills for her symptoms. With these interventions, that 
patient reported an improvement in her mood, sleep, and 
appetite, with observed brightening of her affect and increased 
visibility in milieu with increased amounts of socialization 
with peers. Throughout admission, the patient denied continued 
suicidal ideation. On discharge, MSE was notable for improved 
mood, linear and future-oriented thought process, denial of 
suicidal ideation and brighter affect.
.
3. SUBSTANCE USE DISORDERS:
None
.
4. MEDICAL
None
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. At first, 
the patient was reluctant to attend group therapies, but after 
encouragement, the patient often attended these groups that 
focused on teaching patients various coping skills. Upon 
beginning of admission, patient was quite isolative and remained 
in bed for majority of day, but as admission progressed, the 
patient became increasingly social and was often visible in the 
milieu interacting with peers. The patient never required 
physical nor chemical restraint. 
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Patient was quite resistant to the involvement of family in her 
treatment, and could only identify her ___ year old sister as 
possible source of support, but contact with sister was quite 
difficult and limited secondary to the patient being unable to 
provide contact information for her sister. Patient was 
eventually able to allow the treatment team access to her father 
for collateral information, but the patient self-identified her 
father as unreliable and uninvolved. Ultimately, the treatment 
team was able to speak with the patient's father in a family 
meeting on day of discharge. In this meeting, the patient and 
her father were given the chance to ask any questions they had 
about the treatment and discharge plan. The patient and her 
father were also provided with safety planning recommendation, 
and patient and father expressed understanding of ability to 
contact police if the patient's safety becomes a concern.  
.
#) INTERVENTIONS
- Medications: Sertraline 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Scheduled patient for follow up 
with her PCP and therapist. 
- Behavioral Interventions: encouraged patient to utilize many 
coping skills leared while on the unit
-Guardianships: n/a

On the discharge day, inpatient team has met with patient (Dr. 
___, Dr. ___, ___ were 
present).
Ms. ___ reported that she feels better and would like to be 
discharged. She reported "feeling safe". She clearly denied S/I. 
She shared about positive plans for future. She plans to 
continue with psychiatric treatment. She has an appointment with 
outpatient psychiatrist at ___.  She said that she 
is "glad that (she) was started on medicine".
Pt's father also presented to the hospital. Apparently, family 
reached out to the school and was notified that pt was admitted 
at the hospital. Inpatient team had opportunity to meet with pts 
father. Father was able to express his concerns. Team shared 
with pt and father about recommended treatment plan.
Writer was able to meet with patient after family meeting. Pt 
reported that she feels that meeting went well. Pt reported:" I 
think it's time for the discharge".
Pt was educated about her condition. We also discussed clinical 
sx's of Autism spectrum condition. Pt was provided with info 
about AANE that can be good resource for individuals with Autism 
spectrum conditions.

.
INFORMED CONSENT: Sertraline
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication 
such as nausea, acute worsening of anxiety, and potential 
worsening of suicidal ideation, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her suicidal 
ideation and suicide attempt.  She remains at elevated chronic 
risk secondary to her history of suicide attempt, history of 
abuse, chronic mental illness, recent discharge from an 
inpatient psychiatric unit, and her age. At admission, she was 
also found to be at elevated acute risk of self-harm secondary 
to her suicidal ideation, hopelessness, social withdrawal, 
limited social supports, limited coping skills, and impulsivity. 
These factors were modified by medication initiation, individual 
and group therapy, aftercare planning, and encouraging social 
interactions with peers. Finally, the patient is being 
discharged with many protective risk factors, including her 
help-seeking nature, future-oriented viewpoint, reality testing 
ability, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, and no history of substance use disorder.  Thus, I 
feel the patient does not meet section 12a criteria for risk of 
harm to self/others at this time. 
.
Our prognosis for this patient remains guarded. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY depression/anxiety 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder

 
Discharge Condition:
Vitals:
Temp 98.5 PO; BP 106/71; HR 90; RR 16; oxygen sat 100%
.
Mental Status:
-Appearance: ___ year old woman appearing stated age, well 
groomed, wearing casual clothing, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, mild psychomotor
retardation
-Attitude: Cooperative and engaged
-Mood: 'Good'
-Affect: reactive, increased range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Improving but still limited 
-Judgment: Improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Please consider looking into the Aspergers Association of ___ 
___ at ___
-Please consider looking into further resources at the National 
Alliance on Mental Illness at ___
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___